US05653911
A mixture of (3-fluoropropyl)triphenylphosphonium bromide (15.0 g, 37.2 millimols) with THF (75 ml) was cooled down to -20° C., followed by adding t-BuOK (4.2 g, 37.2 millimols) to the mixture, stirring for one hour, dropwise adding to the mixture, a THF (100 ml) solution of trans-4-(trans-4-(4-cyanophenyl)cyclohexyl)cyclohexanecarbaldehyde (10.0 g, 37.2 millimols) so as to keep the temperature at -20° C. or lower, stirring the mixture at the same temperature for 2 hours, and treating the reaction product in the same manner as in Example 3, to obtain raw (E)-4-(trans-4-(trans-4-(4-fluorobutenyl)cyclohexyl)cyclohexyl)benzonitrile (9.9 g).

reactant | (3-fluoropropyl)triphenylphosphonium bromide | 37.2 millimols, 15.0 g | [Br-].FCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 37.2 millimols, 4.2 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(trans-4-(4-cyanophenyl)cyclohexyl)cyclohexanecarbaldehyde | 37.2 millimols, 10.0 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C20H25NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | (E)-4-(trans-4-(trans-4-(4-fluorobutenyl)cyclohexyl)cyclohexyl)benzonitrile | 9.9 g | FCC/C=C/[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C23H30FN
